US06747023B1
1,5-Bis(t-butoxycarbonyl)-2-hydroxymethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
To a solution of 1,5-bis(t-butoxycarbonyl)-2-(t-butyldiphenylsiloxy)methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine (2.10 g) in pyridine (20 ml), a mixture of hydrogen fluoride and pyridine was added at 0° C., followed by stirring at room temperature for 1 hour. After the reaction mixture was poured into ethyl acetate (50 ml) and ice water (300 ml) which had been stirred in advance, the resulting mixture was separated. The water layer was extracted with ethyl acetate (50 ml). The organic layers were combined, washed with a saturated aqueous solution of sodium bicarbonate, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by chromatography on a silica gel column (150 g of silica gel, hexane:ethyl acetate=3:1), whereby the title compound (882 mg) was obtained as a colorless, transparent caramel-like substance.

reactant | 1,5-bis(t-butoxycarbonyl)-2-(t-butyldiphenylsiloxy)methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 2.10 g | C(C)(C)(C)OC(=O)N1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C | C34H46N2O5Si
reactant | hydrogen fluoride | F | FH
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1,5-Bis(t-butoxycarbonyl)-2-hydroxymethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)CO | C18H28N2O5
